US06004977
N-[2-(3-Methoxy-4-benzyloxyphenyl)-ethylidene]-N'-pyridin-4-yl-hydrazine hydrochloride
To a stirred solution of 1-benzyloxy-2-methoxy-4-(2-methoxyvinyl)benzene (11.0 g), 4-hydrazinopyridine hydrochloride (6.6 g), and ethanol (150 ml) was added p-toluene sulfonic acid (0.39 g). The reaction mixture was stirred under reflux for 2 hrs and concentrated in vacuo. Recrystallization of the residue from methanol/ether gave 9.48 g (61%) of product, mp 154-155° C.

reactant | 1-benzyloxy-2-methoxy-4-(2-methoxyvinyl)benzene | 11.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C=COC)OC | C17H18O3
reactant | 4-hydrazinopyridine hydrochloride | 6.6 g | Cl.N(N)C1=CC=NC=C1
catalyst | p-toluene sulfonic acid | 0.39 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | N-[2-(3-Methoxy-4-benzyloxyphenyl)-ethylidene]-N'-pyridin-4-yl-hydrazine hydrochloride | 9.48 g, 61% | Cl.COC=1C=C(C=CC1OCC1=CC=CC=C1)CC=NNC1=CC=NC=C1 | InChI=1S/C21H21N3O2.ClH/c1-25-21-15-17(9-14-23-24-19-10-12-22-13-11-19)7-8-20(21)26-16-18-5-3-2-4-6-18;/h2-8,10-15H,9,16H2,1H3,(H,22,24);1H
